US08629137B2
Step 5: 7-methoxy-3-(1-{6-[7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-5-carbonyl]-pyrimidin-4-yl}-piperidin-4-yl)-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
36 mg (0.13 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 50 mg (0.12 mmol) (6-chloro-pyrimidin-4-yl)-[7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1 H-indazol-5-yl]-methanone and 30 μL (0.21 mmol) TEA were combined in 0.5 mL DMF and stirred overnight at RT. The reaction mixture was mixed with ice water, the product precipitated as a solid was filtered off and dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.13 mmol, 36 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | (6-chloro-pyrimidin-4-yl)-[7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1 H-indazol-5-yl]-methanone | 0.12 mmol, 50 mg | ClC1=CC(=NC=N1)C(=O)C=1C=C2C=NN(C2=C(C1)C)COCC[Si](C)(C)C | C19H23ClN4O2Si
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 7-methoxy-3-(1-{6-[7-methyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole-5-carbonyl]-pyrimidin-4-yl}-piperidin-4-yl)-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C=2C=C3C=NN(C3=C(C2)C)COCC[Si](C)(C)C)=O)C=C1 | C34H43N7O4Si
